US07951815B2
3-(S)-Benzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one (610 mg, 1.8 mmol) was dissolved in ethyl methyl ketone (5 ml), treated with water (18 μL) and TMSCl (247 μL) and stirred overnight. The solid precipitated in this process was filtered off, washed with ether and dried in vacuo. The product 3-(S)-benzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 590 mg (87%).

reactant | 3-(S)-Benzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one | 1.8 mmol, 610 mg | C(C1=CC=CC=C1)[C@H]1C(NC2(N1)CCN(CC2)C(C(CC)CC)=O)=O | C20H29N3O2
reactant | water | 18 μL | O | H2O
reactant | TMSCl | 247 μL | C[Si](C)(C)Cl | C3H9ClSi
solvent | ethyl methyl ketone | 5 ml | CC(=O)CC | C4H8O
product | 3-(S)-benzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)[C@H]1C(NC2(N1)CCN(CC2)C(C(CC)CC)=O)=O | InChI=1S/C20H29N3O2.ClH/c1-3-16(4-2)19(25)23-12-10-20(11-13-23)21-17(18(24)22-20)14-15-8-6-5-7-9-15;/h5-9,16-17,21H,3-4,10-14H2,1-2H3,(H,22,24);1H/t17-;/m0./s1
